US09353081B2
[B] 8-Fluoro-3,4-dihydro-1H-quinolin-2-one
A flame-dried 50-mL flask equipped with a magnetic stirring bar was charged with 3-chloro-N-(2-fluoro-phenyl)-propionamide (5.33 g, 26.5 mmol) and aluminium chloride (5.30 g, 39.7 mmol). In a pre-heated oil bath, the flask was heated at 160° C. for 1.5 hr. After cooling to room temperature, the mixture was treated with ice-water slowly and extracted with EtOAc. The organic layer was washed with water and brine in sequence, dried over anhy. Na2SO4, filtered, and concentrated in vacuo. The resulting residue was then purified by flash chromatography (silica gel, 30% ethyl acetate in hexane) to afford title compound (3.1 g, 70% yield) as a solid. MS: 166.0 (M+H)+.

reactant | 3-chloro-N-(2-fluoro-phenyl)-propionamide | 26.5 mmol, 5.33 g | ClCCC(=O)NC1=C(C=CC=C1)F | C9H9ClFNO
reactant | aluminium chloride | 39.7 mmol, 5.30 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 8-Fluoro-3,4-dihydro-1H-quinolin-2-one | 3.1 g, 70% yield | FC=1C=CC=C2CCC(NC12)=O | C9H8FNO
